US06664271B1
The reaction was run in the same manner as ethyl 1-benzoyl-3-piperidinecarboxylate, starting with ethyl 3-piperidinylacetate (414.2 mg; 2.4 mmol) and 2-thiopheneacetyl chloride (295 μl; 2.4 mmol). The crude product was purified by chromatography on silica, eluting with 50% ethyl acetate in hexane, giving ethyl 1-(2-thiopheneacetyl)-3-piperidinylacetate (364 mg) as a pale yellow oil. MS m/z (positive ion) 318 (M+Na+; 40), 296 (MH+; 100).

reactant | ethyl 1-benzoyl-3-piperidinecarboxylate | C(C1=CC=CC=C1)(=O)N1CC(CCC1)C(=O)OCC | C15H19NO3
reactant | ethyl 3-piperidinylacetate | 2.4 mmol, 414.2 mg | N1CC(CCC1)CC(=O)OCC | C9H17NO2
reactant | 2-thiopheneacetyl chloride | 2.4 mmol, 295 μl | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
product | ethyl 1-(2-thiopheneacetyl)-3-piperidinylacetate | 364 mg | S1C(=CC=C1)CC(=O)N1CC(CCC1)CC(=O)OCC | C15H21NO3S
